US06403610B1
A mixture of 0.45 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylate, 3.5 cm3 of methanol, and 0.54 cm3 of 5N aqueous sodium hydroxide was heated with stirring at a temperature in the region of 60° C. for 20 hours. After evaporating the solvents under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained was taken up in 3 cm3 of a 6N aqueous hydrochloric acid solution. The solution was evaporated under the same conditions and then the residue obtained was triturated in a dichloromethane/methanol (90/10 by volume) mixture. The insoluble material was filtered off and washed with 2 times 1 cm3 of this mixture. The filtrate was dried over sodium sulfate and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 4° C. After drying in the air, 0.16 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride was obtained in the form of a beige solid which melts, with softening, at approximately 148° C.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylate | 0.45 g | OC(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C26H32N2O4S2
reactant | sodium hydroxide | 5N, 0.54 cm3 | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | 3.5 cm3 | CO | CH4O
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride | 0.16 g | Cl.Cl.OC(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | InChI=1S/C25H30N2O4S2.2ClH/c1-31-18-5-6-22-20(15-18)19(8-10-26-22)23(28)7-4-17-9-11-27(16-21(17)25(29)30)12-14-33-24-3-2-13-32-24;;/h2-3,5-6,8,10,13,15,17,21,23,28H,4,7,9,11-12,14,16H2,1H3,(H,29,30);2*1H/t17-,21+,23?;;/m1../s1
